US07504508B2
Trans-2-Hydroxymethyl-cyclopentanecarboxylic acid methyl ester (0.127 g, 0.81 mmol) was dissolved in 10 ml toluene at room temperature with PPh3 (0.211 g, 0.81 mmol), then added N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide (0.1 g, 0.23 mmol) and stirred for 5 min. DEAD (0.141 g, 0.81 mmol) was added and the reaction was stirred for 18 h at room temperature. The reaction was concentrated and purified by silica gel chromatography (45% dichloromethane/55% ethyl acetate) to afford methyl 2-[(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)methyl]cyclopentanecarboxylate (0.12 g, 90%).

reactant | Trans-2-Hydroxymethyl-cyclopentanecarboxylic acid methyl ester | 0.81 mmol, 0.127 g | COC(=O)[C@H]1[C@@H](CCC1)CO | C8H14O3
reactant | PPh3 | 0.81 mmol, 0.211 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide | 0.23 mmol, 0.1 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | DEAD | 0.81 mmol, 0.141 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)methyl]cyclopentanecarboxylate | 0.12 g, 90% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCC2C(CCC2)C(=O)OC)C=C1)C)C1=CC=C(C=C1)Cl | C33H35ClN2O5
